Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],3.55839731649
[H:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]1[O:5][C@:6]1([H:7])[O:8][H:9],1.15408111257
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:6].[O:1]=[C:2][C:3]([H:4])=[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.87241064012
[C:1].[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-5.87014033155
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.91064687873
[C:7]([H:8])=[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.86685259894
[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3][C:4]#[C:5][H:6],6.88758105204
[C:1][C@:2]([H:3])([O:4][C:5]=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:4][C:5]=[O:6])[C:7]([H:8])([H:9])[H:10].[H:3],2.13228376981
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.12952966213
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.99084763738
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.32049422255
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12],-2.29373188758
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.5983002084699995
[H:14].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.44270499555
[C:2]([H:3])[O:4][C:5][H:6].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5][H:6],-8.25380439501
[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-4.62476153543
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.92898077178
[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-0.812455124271
[H:1][C:2]#[C:4][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-2.4572190874400004
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-4.17205596061
[C:13]([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-2.68031061106
[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.5774656046
[C:7]([H:8])([H:9])=[C:10]([H:11])[O:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-0.945765021859
[H:1][C:2][C:3][C:4]#[C:5][C:6][H:7].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9],-6.023371743180001
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9][H:10],6.43244458913
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5][O:7][C:8]([H:9])([H:10])[H:11].[H:6],2.88847368649
[C:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3](=[O:4])=[C:5]([H:6])[H:7],0.667993102461
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.432487720319999
